US06384220B2
A solution of 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid methyl ester (1.38 g, 4.08 mmol) in tetrahydrofuran/water/methanol (10.2 ml, 3:1:1) was treated with a 2N aqueous sodium hydroxide solution (3.06 mL, 6.12 mmol). The reaction was stirred at 25° C. for 16 h. At this time, an additional amount of the 2N aqueous sodium hydroxide solution (3.06 mL, 6.12 mmol) was added. The reaction was stirred at 25° C. for an additional 24 h. At this time, the reaction mixture was poured into water and extracted into methylene chloride. The layers were separated. The aqueous layer was acidified to pH=1 with a 1N aqueous hydrochloric acid solution and was then extracted with a solution of methylene chloride/methano (90/10). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid (0.79 g, 60.2%) as a white solid: mp 112-114° C.

reactant | 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid methyl ester | 4.08 mmol, 1.38 g | COC(C(CC1CCCC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H26O3
reactant | sodium hydroxide | 6.12 mmol, 2N, 3.06 mL | [OH-].[Na+]
reactant | sodium hydroxide | 6.12 mmol, 2N, 3.06 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran water methanol | 10.2 ml | O1CCCC1.O.CO
product | 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid | 0.79 g, 60.2% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C21H24O3
